US07173004B2
Preparation of Compound 12 [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid methyl ester
To a mixture of cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl]-amide bis hydrochloride (50 mg, 0.075 mmol) in 2 mL of DCM was added 44 μL (0.25 mmol)of DIPEA and 9 mg (0.10 mmol) of methyl chloroformate. The mixture was stirred at rt for 2 h. It was then diluted with EtOAc and washed with pH 4 buffer (2×) and brine (1×). The organic phase was dried (MgSO4) and concentrated in vacuo to give the crude product. Flash chromatography (2% MeOH/DCM) gave 40 mg (82%) of the desired product as a white solid: LC-MS (Method A, retention time: 3.05 min), MS m/z 654 (M++1).

reactant | cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl]-amide bis hydrochloride | 0.075 mmol, 50 mg | Cl.Cl.NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1
reactant | DIPEA | 0.25 mmol, 44 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0.10 mmol, 9 mg | ClC(=O)OC | C2H3ClO2
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid methyl ester | 40 mg, 82% | COC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1)=O | C32H39N5O8S
